US08791133B2
4-[(E)-2-(5-Bromopyridin-2-yl)vinyl]-7,7-dimethyl-5-oxo-4,5,6,7,8,9-hexahydro-1H-pyrazolo[3,4-b]quinoline-3-cyclopropylmethylcarboxamide
The title compound is prepared analogously to procedure A from 150 mg of (E)-3-(5-bromopyridin-2-yl)propenal, 100 mg of dimedone and 127 mg of 5-amino-1H-pyrazole-3-cyclopropyl methylcarboxamide.

reactant | (E)-3-(5-bromopyridin-2-yl)propenal | 150 mg | BrC=1C=CC(=NC1)/C=C/C=O | C8H6BrNO
reactant | dimedone | 100 mg | CC1(CC(=O)CC(=O)C1)C | C8H12O2
reactant | 5-amino-1H-pyrazole 3-cyclopropyl methylcarboxamide | 127 mg | NC1=CC=NN1.C1CC1NC(=O)C
product | 4-[(E)-2-(5-Bromopyridin-2-yl)vinyl]-7,7-dimethyl-5-oxo-4,5,6,7,8,9-hexahydro-1H-pyrazolo[3,4-b]quinoline 3-cyclopropylmethylcarboxamide | BrC=1C=CC(=NC1)/C=C/C1C2=C(NC=3CC(CC(C13)=O)(C)C)NN=C2.C1CC1CC(=O)N | InChI=1S/C19H19BrN4O.C5H9NO/c1-19(2)7-15-17(16(25)8-19)13(14-10-22-24-18(14)23-15)6-5-12-4-3-11(20)9-21-12;6-5(7)3-4-1-2-4/h3-6,9-10,13H,7-8H2,1-2H3,(H2,22,23,24);4H,1-3H2,(H2,6,7)/b6-5+;
